US06143198
A mixture of 4'-(4-methoxymethylcyclohexyl)-4-trifluoromethoxybiphenyl (100 mmol), TMSI (144 mmol), 15 ml of acetonitrile, and 10 ml of methylene chloride was stirred at room temperature for 4 hr. Ice and 6 M HCl were added to the reaction mixture, and the mixture was stirred. The organic phase was washed twice with a saturated aqueous solution of sodium thiosulfate. It was then dried over magnesium sulfate anhydride, and the solvent was distilled off under reduced pressure to give a crude product. The crude product was purified by silica gel column chromatography (eluting solution: toluene--(1:1) mixture of toluene and ethyl acetate) to give 4'-(4-hydroxymethylcyclohexyl)-4-trifluoromethoxybiphenyl (68 mmol, yield 68%).

reactant | 4'-(4-methoxymethylcyclohexyl)-4-trifluoromethoxybiphenyl | 100 mmol | COCC1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C21H23F3O2
reactant | TMSI | 144 mmol | [Si](C)(C)(C)I | C3H9ISi
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
reactant | HCl | 6 M | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4'-(4-hydroxymethylcyclohexyl)-4-trifluoromethoxybiphenyl | 68 mmol, yield 68% | OCC1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C20H21F3O2
